US07135479B2
To 6-cyanoindole (1.7 g, 12 mmol) in N,N-dimethylformamide (100 mL) was added a 60% mineral oil dispersion of sodium hydride (0.48 g, 12 mmol). The mixture was stirred at room temperature under nitrogen for 30 min, then 4-tosyloxymethyl-N-carbobenzyloxypiperidine (4.8 g, 12 mmol) added and the mixture heated at 80° C. under nitrogen for 15 hours. The solvent was removed in vacuum and replaced with methylene chloride (400 mL). The solution was washed with 350 mL portions of water, saturated aqueous sodium bicarbonate, and saturated brine and dried over sodium sulfate. Filtration, concentration in vacuum and column chromatography on silica gel with methylene chloride as eluent gave 4.4 g of 4-(6-cyano-indol-1-ylmethyl)-piperidine-1-carboxylic acid benzyl ester. This material was dissolved in ethyl acetate (100 mL), 10% Pd on carbon (0.50 g) and cyclohexene (3.2 g, 40 mmol) added, and the mixture refluxed under nitrogen for 15 hours. Filtration through celite, followed by concentration in vacuum gave 1.9 g of the title compound as a white solid. 1H-NMR (CDCl3): doublet 7.6 δ (1 H); singlet 7.55 δ (1 H); doublet 7.2 δ (1 H); singlet 7.13 δ (1 H); singlet 6.25 δ (1 H); doublet 3.9 δ (2 H); doublet 3.02 δ (1 H); triplet 2.45 δ (2 H); doublet 1.45 δ (2 H); multiplet 1.18 δ (2 H).

reactant | 6-cyanoindole | 12 mmol, 1.7 g | C(#N)C1=CC=C2C=CNC2=C1 | C9H6N2
reactant | sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | 4-tosyloxymethyl-N-carbobenzyloxypiperidine | 12 mmol, 4.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H25NO5S
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-(6-cyano-indol-1-ylmethyl)-piperidine-1-carboxylic acid benzyl ester | 4.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN1C=CC2=CC=C(C=C12)C#N | C23H23N3O2
